US05480899
Synthesis of methyl 4-[3-(4-chlorophenyl)-2-oxooxazolidin-5-yl]methoxybenzoate
A 1.52 g quantity of methyl 4-hydroxy-benzoate was added to a suspension of 0.42 g of 60% sodium hydride in anhydrous N,N-dimethylformamide (15 ml) with ice-cooling in a stream of nitrogen. To the mixture was added dropwise an anhydrous N,N-dimethylformamide (15 ml) solution of 2.46 g of 5-(chloromethyl)-3-(4-chlorophenyl)-2-oxooxazolidine obtained in Reference Example 7 at the same temperature, and the mixture was stirred at 40° C. for 48 hours. The reaction mixture was concentrated under reduced pressure, and the obtained residue was extracted with ethyl acetate. The extract was washed with water, dried with magnesium sulfate and filtered. The filtrate was then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and purified by hexane-ethyl acetate gradient elution to give 1.75 g of the title compound (compound 51) in a yield of 48%.

reactant | methyl 4-hydroxy-benzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | sodium hydride | 0.42 g | [H-].[Na+]
reactant | 5-(chloromethyl)-3-(4-chlorophenyl)-2-oxooxazolidine | 2.46 g | ClCC1CN(C(O1)=O)C1=CC=C(C=C1)Cl | C10H9Cl2NO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | methyl 4-[3-(4-chlorophenyl)-2-oxooxazolidin-5-yl]methoxybenzoate | 1.75 g, yield of 48% | ClC1=CC=C(C=C1)N1C(OC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C18H16ClNO5
